US05883106
4-[5-Fluoro-3-[4-(2-methylimidazol-1-yl)benzyloxy]phenyl]-3,4,5,6-tetrahydro-2H-pyran-4-carboxamide hydrochloride
4-[5-Fluoro-3-[4-(2-methylimidazol-1-yl)benzyloxy]phenyl]-tetrahydro-2H-pyran-4-carboxamide (39 mg, 0.1 mmol) was dissolved in 10% hydrogen chloride-methanol (2 ml). After stirring for 10 min, volatiles were removed by evaporation and the resulting residue recrystallized from ethanol to give the titled compound (24 mg, 57%) as white solids.

reactant | 4-[5-Fluoro-3-[4-(2-methylimidazol-1-yl)benzyloxy]phenyl]-tetrahydro-2H-pyran-4-carboxamide | 0.1 mmol, 39 mg | FC=1C=C(C=C(C1)C1(CCOCC1)C(=O)N)OCC1=CC=C(C=C1)N1C(=NC=C1)C | C23H24FN3O3
reactant | hydrogen chloride methanol | 2 ml | Cl.CO
product | 4-[5-Fluoro-3-[4-(2-methylimidazol-1-yl)benzyloxy]phenyl]-3,4,5,6-tetrahydro-2H-pyran-4-carboxamide hydrochloride | 24 mg, 57% | Cl.FC=1C=C(C=C(C1)C1(CCOCC1)C(=O)N)OCC1=CC=C(C=C1)N1C(=NC=C1)C | InChI=1S/C23H24FN3O3.ClH/c1-16-26-8-9-27(16)20-4-2-17(3-5-20)15-30-21-13-18(12-19(24)14-21)23(22(25)28)6-10-29-11-7-23;/h2-5,8-9,12-14H,6-7,10-11,15H2,1H3,(H2,25,28);1H
